US05807859
To a suspension of 3.54 g of 10-acetamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 80 ml of anhydrous dimethyl sulphoxide, maintained at 20° C. under a nitrogen atmosphere, is added 0.86 g of 80% sodium hydride and the mixture is stirred for 20 minutes. A solution of 1.7 g of methyl iodide in 8 ml of anhydrous dimethyl sulphoxide is then added dropwise over 5 minutes at the same temperature, the mixture is stirred for 1 hour and 40 ml of distilled water are added slowly. After stirring for 16 hours, the mixture is poured onto a mixture of 200 g of ice and 560 ml of distilled water, then the pH is adjusted to 4 by addition of 4 ml of acetic acid. The mixture is centrifuged so as to remove the tarry part and to recover the supernatant suspension, which is concentrated to dryness under reduced pressure (1 mmHg; 0.13 kPa) at 60° C. The product obtained (10 g) is suspended in 200 ml of distilled water, isolated by filtration, washed twice with 80 ml in total of distilled water and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. The product obtained (1.6 g) is suspended for 10 minutes in 20 ml of boiling ethanol and, after storing for 1 hour at 5° C., is then isolated by filtration, washed twice with 4 ml in total of chilled ethanol and dried under reduced pressure (15 mmHg; 2 kPa) at 20° C. The product obtained (1.4 g) is suspended for 10 minutes in 20 ml of boiling ethanol and, after storing for 1 hour at 5° C., is then isolated by filtration, washed twice with 4 ml in total of chilled ethanol and dried under reduced pressure (1 mmHg; 0.13 kPa) at 40° C. 1.28 g of 10-acetamido-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are thus obtained, decomposing without melting above 260° C. (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: 1.61 and 1.79 (2s, 3H each: --CH3 at 10 and --NHCOCH3 at 10); 7.28 and 7.36 (2t, J=7.5 Hz, 1H each: --H 7 and --H 8); 7.43 and 7.80 (2d, J=7.5 Hz, 1H each: --H 6 and --H 9); 7.63 and 7.91 (2s, 1H each: --H of the imidazole); 8.63 (s, 1H: --NHCO-- at 10); 12.41 (s, 1H: --NHCO-- of the ring)).

reactant | 10-acetamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 3.54 g | C(C)(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C15H12N4O2
reactant | sodium hydride | 0.86 g | [H-].[Na+]
reactant | methyl iodide | 1.7 g | CI | CH3I
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | dimethyl sulphoxide | 80 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 560 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 10-acetamido-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.28 g | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C | C16H14N4O2
